US05324743
A. 2-[(3-Hydroxy-2-Propylphenoxy)Methyl]Benzoic Acid Methyl Ester
A mixture of 1,3-dihydroxy-2-propylbenzene (5.00 g, 33.3 mmol) in dimethylformamide (10 mL) was treated with 97% sodium hydride (880 mg, 36.6 mmol ) as room temperature for 20 minutes. 2-(Carbomethoxy)benzyl bromide (7.62 g, 33.3 mmol) was added in one portion and the resulting mixture stirred at room temperature for 24 hours. The mixture was diluted with ethyl acetate and washed once with brine. The organic layer was dried (sodium sulfate), filtered, and concentrated in vacuo to provide a brown oil. Silica gel chromatography (hexane/ethyl acetate) provided 2.10 g (21%) of the title intermediate as a colorless oil: 1H--NMR (CDCl3), 8.08 (d, J=8 Hz, 1H), 7.84 (d, J=8 Hz, 1H), 7.61 (t, J=8 Hz, 1H), 7.41 (t, J=8 Hz, 1H), 7.02 (t, J=8 Hz, 1H), 6.58 (d, J=8 Hz, 1H), 6.50 (d, J=8 Hz, 1H), 5.52 (s, 2H), 5.16 (s, 1H, --OH), 3.94 (s, 3H), 2.78 (t, J=7 Hz, 2H), 1.67 (hextet, J=8 Hz, 2H), 1.03 (t, J=8 Hz, 3H).

reactant | 1,3-dihydroxy-2-propylbenzene | 33.3 mmol, 5.00 g | OC1=C(C(=CC=C1)O)CCC | C9H12O2
reactant | sodium hydride | 36.6 mmol, 880 mg | [H-].[Na+]
reactant | 2-(Carbomethoxy)benzyl bromide | 33.3 mmol, 7.62 g | C(=O)(OC)C1=C(CBr)C=CC=C1 | C9H9BrO2
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[(3-Hydroxy-2-Propylphenoxy)Methyl]Benzoic Acid Methyl Ester | 2.10 g, 21% | COC(C1=C(C=CC=C1)COC1=C(C(=CC=C1)O)CCC)=O | C18H20O4
